US04804665
8-Benzyloxycarbonyl-2-methoxy-2,8-diazaspiro[4,5]decane-1,3-dione
To a solution of (1-benzyloxycarbonyl-4-carboxypiperidin-4-yl)acetic acid (3.64 g) in dimethylformamide (30 ml) dicyclohexylcarbodiimide (2.57 g) was added, and this was followed by stirring at room temperature for 30 minutes. o-Methylhydroxylamine hydrochloride (0.95 g) and triethylamine (1.56 ml) were then added, and this was followed by stirring at room temperature for 30 minutes. The resulting precipitates were removed, and the solvent was evaporated under reduced pressure. To the resulting residual oily compound acetic anhydride (20 ml) and anhydrous sodium acetate (0.39 g) were added, and this was followed by stirring at 100° C. for 30 minutes. After the completion of the reaction, the solvent was removed, and the residual oil was dissolved in 50 ml ethyl acetate. The resulting solution was sequentially washed with a saturated aqueous solution of sodium hydrogencarbonate, 1N hydrochloric acid and water, and dried with anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure; the resulting residual solid was recrystallized from ethyl ether-petroleum ether to obtain 2.1 g of a colorless crystal having a melting point of 98° C.

reactant | (1-benzyloxycarbonyl-4-carboxypiperidin-4-yl)acetic acid | 3.64 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)(C(=O)O)CC(=O)O | C16H19NO6
reactant | o-Methylhydroxylamine hydrochloride | 0.95 g | CO[NH3+].[Cl-]
reactant | triethylamine | 1.56 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 30 ml, 2.57 g | CN(C=O)C | C3H7NO
product | 8-Benzyloxycarbonyl-2-methoxy-2,8-diazaspiro[4,5]decane-1,3-dione | 2.1 g | C(C1=CC=CC=C1)OC(=O)N1CCC2(CC(N(C2=O)OC)=O)CC1 | C17H20N2O5
